US05811556
Lithium diisopropylamide, 1.3 mL of 0.84 molar solution in tetrahydrofuran, was added to a solution of 0.11 mL N,N-dimethylacetamide in 1 mL tetrahydrofuran at -78° C. The mixture was stirred for fifteen minutes, then allowed to warm to -55° C. A solution of 220 mg (S)-6-fluoro-1-isopropyl-3,4-dihydro-1H-naphthalen-2-one in 1 mL tetrahydrofuran was added at that temperature, then allowed to warm to 0-5° C. with stirring, and stirred for 2.5 hours. The reaction mixture was quenched with 3 mL saturated aqueous ammonium chloride, and extracted three times with 3 mL portions of diethyl ether. The ether extracts were combined, dried with magnesium sulfate, and stripped to give 290 mg (1S,2S)-N,N-dimethyl-(6-fluoro-2-hydroxy-1-isopropyl-1, 2,3,4-tetrahydronaphthalen-2-yl)acetamide as a pale yellow oil.

reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | N,N-dimethylacetamide | 0.11 mL | CN(C(C)=O)C | C4H9NO
reactant | (S)-6-fluoro-1-isopropyl-3,4-dihydro-1H-naphthalen-2-one | 220 mg | FC=1C=C2CCC([C@H](C2=CC1)C(C)C)=O | C13H15FO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (1S,2S)-N,N-dimethyl-(6-fluoro-2-hydroxy-1-isopropyl-1, 2,3,4-tetrahydronaphthalen-2-yl)acetamide | 290 mg | CN(C(C[C@@]1([C@H](C2=CC=C(C=C2CC1)F)C(C)C)O)=O)C | C17H24FNO2
